US07026335B2
Preparation of 4-cyclohexyl-4-formyl-piperidine-1-carboxylic acid tert-butyl ester (7):
To a mixture of 4-cyclohexyl-4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester, 3, (1.0 g, 3.36 mmol), 4-methylmorpholine N-oxide (0.54 g, 4.64 mmol), and molecular sieves (0.5 g) in methylene chloride (20 mL) under argon atmosphere is added tetrapropylammonium perruthenate (35.5 mg) at room temperature. The mixture is stirred for 30 min to 1 hour after which the solution is filtered through a pad of silica and the solvent removed in vacuo to afford the desired product as a colorless oil, which is used without further purification. MS (ESI) m/z 318, (M+Na+).

reactant | 4-cyclohexyl-4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(CO)C1CCCCC1 | C17H31NO3
reactant | 4-methylmorpholine N-oxide | 3.36 mmol, 1.0 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrapropylammonium perruthenate | 35.5 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 4-cyclohexyl-4-formyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C=O)C1CCCCC1 | C17H29NO3
